US05081152
(1) 7-Isopropyl-3-(2-hydoxy)ethyl-1-formylazulene
A POCl3 (0.4 ml ) was added to DMF (5.0 ml ) at 0° C. and stirred for 10 min. To this mixture, 0.5 g of 7-Isopropyl-[3-(2-hydroxyethyl)]-azulene in DMF (2.5 ml) was added and stirred at 0° C. for 30 min. The mixture was poured into icewater and basified with 10% NaOH solution. The solution was extracted with ethyl acetate. The ethyl acetate extracts were washed with H2O and brine, dried (MgSO4), then concentrated to dryness. Purification of the residue by silica gel column chromatography (elution with ether) gave 0.556 g of the desired compound (98.1%)

reactant | POCl3 | 0.4 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 7-Isopropyl-[3-(2-hydroxyethyl)]-azulene | 0.5 g | C(C)(C)C1=CC=CC2=C(C=CC2=C1)CCO | C15H18O
reactant | NaOH | [OH-].[Na+]
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 7-Isopropyl-3-(2-hydoxy)ethyl-1-formylazulene | 0.556 g, 98.1% | C(C)(C)C1=CC=CC2=C(C=C(C2=C1)C=O)CCO | C16H18O2
